US05641788
According to the same manner as that described in Example 5, 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline was reacted with morpholine to give 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-morpholinomethyl-3-valerylquinoline. This compound was recrystallized from ethyl acetate-hexane to give colorless prisms. mp. 137°-138° C.

reactant | 2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-3-valerylquinoline | BrCC1=NC2=CC(=C(C=C2C(=C1C(CCCC)=O)C1=CC(=C(C=C1)OC)OC)OC)OC | C25H28BrNO5
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-morpholinomethyl-3-valerylquinoline | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN1CCOCC1)C(CCCC)=O | C29H36N2O6
